US05158946
(a) Diphenylmethyl 3-(2,5-Dihydro-2-oxofuran-3-ylmethylthio)-7β-[2-(2-tritylaminothiazol-4-yl)-2-(Z)trityloxyiminoacetamido]ceph-3-em-4-carboxylate
A stirred solution of sodium 2-(2-tritylaminothiazol-4-yl)-2-trityloxyiminoacetate (420 mg) in dimethylformamide (5 ml) was cooled to -50° C. whilst under an inert atmosphere. Methanesulphonyl chloride (0.047 ml) was added and the reaction stirred at -50° C. for 30 min. Pyridine (0.049 ml) was added followed by a solution of diphenylmethyl 7β-amino-3-(2,5-dihydro-2-oxofuran-3-ylmethylthio)ceph-3-em-4-carboxylate (300 mg) in dimethylformamide (3 ml) and the reaction was allowed to warm to 0° C. After stirring at 0° C. for 90 min the mixture was partitioned between ethyl acetate and water. The organic phase was separated and washed twice with water followed by saturated sodium bicarbonate and finally brine. After drying over magnesium sulphate and evaporation of solvent the residue was purified by chromatography on silica gel (Keiselgel, 2:3 ethyl acetate:hexane rising to 7:3 ethyl acetate:hexane). The title compound was isolated as a foam (422 mg). υmax (CH2Cl2) 3380, 1785, 1760 and 1725cm-1 ; δ H (CDCl3) 3.25 (1H, d, J 17.3Hz), 3.49-3.56 (3H, m), 4.68 (2H, s), 5.08 (1H, d, J 4.9Hz), 6.00 (1H, dd, J 8.8Hz, 4.9Hz), 6.44 (1H, s), 6.74 (1H, bs), 6.98 (1H, s), 7.12 (1H, s), 7.16-7.49 (41H, m). [mass spectrum: +ve ion (3NOBA, Na+) MNa+ 1170].

reactant | sodium 2-(2-tritylaminothiazol-4-yl)-2-trityloxyiminoacetate | 420 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)[O-])=NOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[Na+]
reactant | Methanesulphonyl chloride | 0.047 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | Pyridine | 0.049 ml | N1=CC=CC=C1 | C5H5N
reactant | diphenylmethyl 7β-amino-3-(2,5-dihydro-2-oxofuran-3-ylmethylthio)ceph-3-em-4-carboxylate | 300 mg | N[C@H]1[C@@H]2N(C(=C(CS2)SCC=2C(OCC2)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C25H22N2O5S2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | Diphenylmethyl 3-(2,5-Dihydro-2-oxofuran-3-ylmethylthio)-7β-[2-(2-tritylaminothiazol-4-yl)-2-(Z)trityloxyiminoacetamido]ceph-3-em-4-carboxylate | O=C1OCC=C1CSC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(\C(=N/OC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)\C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)=O | C68H53N5O7S3
